US09388189B2
a) 4,6-Dichloro-N-(3-fluoro-5-methoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloropyrimidine-5-carbonyl chloride (590 mg, 2.79 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dissolved in dichloromethane (3 ml) and TEA (389 μl, 2.79 mmol) was added. To this solution, 3-fluoro-5-methoxyaniline (394 mg, 2.79 mmol) dissolved in 3 ml dichloromethane was added dropwise and the mixture was stirred for 30 min. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude (800 mg, 56% purity, 51% yield) was used in the next synthetic step without further purification.

reactant | 4,6-Dichloropyrimidine-5-carbonyl chloride | 2.79 mmol, 590 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | 3-fluoro-5-methoxyaniline | 2.79 mmol, 394 mg | FC=1C=C(N)C=C(C1)OC | C7H8FNO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4,6-Dichloro-N-(3-fluoro-5-methoxyphenyl)pyrimidine-5-carboxamide | 51% yield | ClC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)F)Cl | C12H8Cl2FN3O2
